US07504526B2
(1) Synthesis of Intermediate Product 5-(4-bromophenyl)acenaphthene
Five point nine gram of the 5-acenaphthene boronic acid obtained and 10.2 gram of 4-bromo iodobenzene were dissolved into 100 milliliter of toluene. Further adding tetrakistriphenylphosphinepalladium in an amount of 1.7 g and 2M-sodium carbonate aqueous solution in an amount of 45 milliliter, an atmospheric air was replaced with argon gas. The resultant solution was refluxed under heating for 6 hours, cooled by leaving it standing and the organic layer was extracted with the use of toluene. Washing with the use of a saturated sodium chloride solution, the organic layer was dried with anhydrous sodium sulfate, and the organic solvent was distillated by means of an evaporator. After refining the residues by means of silicagel column chromatography (spreading solvent: hexane), 9.2 g of the aimed intermediate product 5-(4-bromophenyl) acenaphthene as a pale yellow solid was obtained (yield: 100%).

reactant | 5-acenaphthene boronic acid | nine gram | C1CC2=CC=C(C3=CC=CC1=C23)B(O)O | C12H11BO2
reactant | 4-bromo iodobenzene | 10.2 gram | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakistriphenylphosphinepalladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 100 milliliter | C1(=CC=CC=C1)C | C7H8
product | 5-(4-bromophenyl)acenaphthene | 9.2 g, yield: 100% | BrC1=CC=C(C=C1)C1=CC=C2CCC=3C=CC=C1C32 | C18H13Br
